US06919331B2
1-Isopropyl-3-[4-methoxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one:
A mixture of 2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-4-carbaldehyde (37 mg, 0.091 mmol) and sodium chlorite (12 mg, 0.11 mmol) in water (1 mL) and acetonitrile (1 mL) was stirred at room temperature for 8 hrs. An additional amount of sodium chlorite (12 mg) was added and stirring was continued overnight. 1M NaOH was added and the mixture was extracted with ethyl acetate (twice). The aqueous phase was acidified with 1M HCl until pH 4. The resulting suspension was extracted with ethyl acetate (2×10 mL) and the combined organic phases washed with water, brine, and dried (MgSO4). The pure title compound (8 mg, 21%) was obtained as a white solid:

reactant | 2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-4-carbaldehyde | 0.091 mmol, 37 mg | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1C=O)=O | C24H28N4O2
reactant | sodium chlorite | 0.11 mmol, 12 mg | Cl(=O)[O-].[Na+]
reactant | sodium chlorite | 12 mg | Cl(=O)[O-].[Na+]
reactant | NaOH | 1M | [OH-].[Na+]
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
product | 1-Isopropyl-3-[4-methoxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one | 8 mg, 21% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1COC)=O | C25H32N4O2
